US05700809
3-(6-phenyl-1,2,3,4-tetrahydroisoquinolin-2-yl)methyl-1H-pyrrolo[2,3-b]pyridine
A mixture of 6-phenyl-1,2,3,4-tetrahydroisoquinoline (prepared by the method of L. N. Pridgen, J. Heterocyclic Chem. 1980, 17, 1289) (0.5 g, 2.38 mmol) and 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine (0.4 g, 2.28 mmol) in toluene (5 ml) was heated at reflux under nitrogen for 18 h. The mixture was allowed to cool and the crystallised product collected. Recrystallisation from ethyl acetate afforded the title compound (0.13 g, 17%), m.p. 211°-213° C.; (Found: C, 80.15; H, 6.30; N, 12.32. C23H21N3.0.3H2O requires C, 80.11; H, 6.31; N, 12.18%); δH (DMSO-d6) 2.73 (2H, br s, CH2CH2Ph), 2.87 (2H, br s, NCH2CH2), 3.61 (2H, s, ArCH2N), 3.83 (2H, s, NCH2Ph), 7.02 (1H, dd, J 7.8, 4.6 Hz, 5-H), 7.18 (1H, d, J 3.2 Hz, 2-H), 7.30-7.45 (6H, m, ArH), 7.60 (2H, d, J 7.6 Hz, ArH), 8.05 (1H, d, J 7.6 Hz, 4-H), 8.20 (1H, dd, J 6.1, 1.4 Hz, 6-H), and 11.48 (1H, br s, NH); m/z (CI+, NH3) 340 (M+1)+.

reactant | 6-phenyl-1,2,3,4-tetrahydroisoquinoline | C1(=CC=CC=C1)C=1C=C2CCNCC2=CC1 | C15H15N
reactant | 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine | 2.28 mmol, 0.4 g | CN(C)CC1=CNC2=NC=CC=C21 | C10H13N3
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(6-phenyl-1,2,3,4-tetrahydroisoquinolin-2-yl)methyl-1H-pyrrolo[2,3-b]pyridine | 0.13 g, 17% | C1(=CC=CC=C1)C=1C=C2CCN(CC2=CC1)CC1=CNC2=NC=CC=C21 | C23H21N3
